US07550467B2
To a solution of (2S,5R)-4-[3-(6-bromo-chroman-3-ylamino)-propyl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (0.12 g, 0.25 mmol) in CH2Cl2 (0.5 mL) was added 3-chloro-4-fluoro-phenylisocyanate (0.043 g, 0.25 mmol). After stirring at room temperature for 16 hours, the mixture was concentrated in vacuo and the residue was purified on reverse-phase HPLC to give 0.047 g (29%) of (2S,5R)-4-{3-[1-(6-bromo-chroman-3-yl)-3-(3-chloro-4-fluoro-phenyl)-ureido]-propyl}-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester as a white solid. 1H NMR (300 MHz, CDCl3): δ 7.85 (d, J=17.4 Hz, 1H), 7.62 (d, J=6.3 Hz, 1H), 7.23 (m, 2H), 7.02 (t, J=9.0 Hz, 1H), 6.71 (d, J=9.0 Hz, 1H), 6.14 (br.s, 1H), 4.55 (m, 2H), 4.26 (m, 2H), 3.92 (m, 1H), 3.60-2.70 (m, 10H), 2.05 (m, 2H), 1.46 (s, 9H), 1.37 (d, J=7.2 Hz, 3H), 1.20 (m, 3H). MS-ESI: 653.1 (M+H+).

reactant | (2S,5R)-4-[3-(6-bromo-chroman-3-ylamino)-propyl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.25 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)CCCNC1COC2=CC=C(C=C2C1)Br)C | C23H36BrN3O3
reactant | 3-chloro-4-fluoro-phenylisocyanate | 0.25 mmol, 0.043 g | ClC=1C=C(C=CC1F)N=C=O | C7H3ClFNO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)-4-{3-[1-(6-bromo-chroman-3-yl)-3-(3-chloro-4-fluoro-phenyl)-ureido]-propyl}-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.047 g, 29% | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)CCCN(C(=O)NC1=CC(=C(C=C1)F)Cl)C1COC2=CC=C(C=C2C1)Br)C | C30H39BrClFN4O4
